US04117019
A solution of 140 parts of o-xylyl chloride and 500 parts of benzene is added to a mixture of 162 parts of boron fluoride dihydrate and 16 parts of sulfuric acid monohydrate at from 75° to 78° C, whilst stirring vigorously. After a further 6 hours, the organic phase is separated off and 162 parts (90% of theory) of o-benzyltoluene boiling at 98° C at 0.2 mm Hg are isolated by distillation.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | boron fluoride dihydrate | O.O.B(F)(F)F
reactant | sulfuric acid monohydrate | O.S(O)(O)(=O)=O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 90% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
